US07622589B2
16A) 1-Isopropenyl-4-(trifluoromethoxy)benzene
To a stirred suspension of 60% sodium hydride (1.96 g, 49 mmol) was added DMSO (20 ml) dropwise at 0° C. and the mixture was stirred at 80° C. for 30 minutes. After cooling the mixture to 0° C., a sol methyltriphenylphosphonium bromide (17.5 g, 49 mmol) in DMSO (60 ml) was added dropwise at 0° C. and stirred at ambient temperature for 45 minutes. Then, to this mixture 1-[4-(trifluoromethoxy)phenyl]ethanone (5 g, 24.5 mmol) was added dropwise at ambient temperature and stirred at ambient temperature for 1 hour. The reaction was quenched with a small amount of acetone and diluted with hexane and water. The resulting precipitates were filtered and the organic layer was separated. After evaporation of the solvent, the residue was washed with hexane and concentrated in vacuo to afford 5.1 g (quant.) of the title compound as a colorless oil

reactant | sodium hydride | 49 mmol, 1.96 g | [H-].[Na+]
reactant | 1-[4-(trifluoromethoxy)phenyl]ethanone | 24.5 mmol, 5 g | FC(OC1=CC=C(C=C1)C(C)=O)(F)F | C9H7F3O2
reactant | DMSO | 60 ml | CS(=O)C | C2H6OS
reactant | DMSO | 20 ml | CS(=O)C | C2H6OS
catalyst | methyltriphenylphosphonium bromide | 49 mmol, 17.5 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-Isopropenyl-4-(trifluoromethoxy)benzene | C(=C)(C)C1=CC=C(C=C1)OC(F)(F)F | C10H9F3O
